US05389682
[S-(R*,R*)] and [R-(R*,R*)]-N-(4-nitrophenyl)-N'-[1,2-diphenyl-2-[[(phenylamino)carbonyl]amino]ethyl)-urea
To a solution of [R-(R*,R*)] and [S-(R*,R*)]N-(2-amino-1,2 -diphenylethyl)-N'-(4-nitrophenyl)urea (0.1 g, 0.27 mmol) in dichloromethane (10 mL) is added phenyl isocyanate (0.03 g, 0.27 mmol) in one portion. The resulting mixture is stirred 1 hour at room temperature before filtering off the solid product. The product is suspended in hot diethyl ether, filtered, and dried in vacuo at 114° C. for 4 hours, mp 246°-247° C. IR (KBr): 3355, 1656, 1554, 1498, 1330, 1233, 699 cm-1 ; NMR (DMSO-d6): 5.03 (m, 2H), 6.55-7.37 (m, 17H), 7.59 (d, 2H, J=9.2 Hz), 8.11 (d, 2H, J=9.2 Hz), 8.60 (s, 1H), 9.43 (s, 1H). Analysis calculated for C28H25 5O4.1.0H2O: C, 65.49; H, 5.30; N, 13.64. Found: C, 65.44; H, 5.03; N, 13.77.

reactant | N-(2-amino-1,2 -diphenylethyl)-N'-(4-nitrophenyl)urea | 0.27 mmol, 0.1 g | NC(C(C1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C21H20N4O3
reactant | phenyl isocyanate | 0.27 mmol, 0.03 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(4-nitrophenyl)-N'-[1,2-diphenyl-2-[[(phenylamino)carbonyl]amino]ethyl)-urea | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)NC(C(NC(=O)NC1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H25N5O4
